US06339091B1
81.a. N-(3,4-difluorophenyl)acetamide
A mixture of 3,4-difluoroaniline (50 ml; 0.5 mole) and triethylamine (70 ml; 0.5 mol) in dichloromethane (1.5 l) is cooled down using an ice bath. Acetic anhydride (71.5 ml; 0.75 mol) is added dropwise and the reaction mixture is then agitated for 1 hour at ambient temperatue. The mixture obtained is then washed successively with water, a 10% solution of sodium bicarbonate and saturated salt water. The organic fraction is dried over sodium sulphate and concentrated under reduced pressure. The residue is suspended in pentane, filtered and dried under reduced pressure in order to produce the product in the title (78 g; 91% yield) in the form of a whitish solid (M.p. 126-127.5° C.).

reactant | 3,4-difluoroaniline | 0.5 mole, 50 ml | FC=1C=C(N)C=CC1F | C6H5F2N
reactant | triethylamine | 0.5 mol, 70 ml | C(C)N(CC)CC | C6H15N
reactant | Acetic anhydride | 0.75 mol, 71.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 1.5 l | ClCCl | CH2Cl2
product | N-(3,4-difluorophenyl)acetamide | 91% yield | FC=1C=C(C=CC1F)NC(C)=O | C8H7F2NO
